US03962443
Ethyl 5,8-dihydro-8-ethyl-2-(1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (compound 56)
A solution of 3.0 g of ethyl 2-(4-benzyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]-pyrimidine-6-carboxylate in 100 ml of ethanol was allowed to consume an equivalent amount of hydrogen over 1.5 g of 10% palladium-on-carbon under hydrogen atmosphere. The reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated to give a solid which was collected and recrystallized from acetone. There is obtained 2.5 g of the product, m.p. 156° - 158°C.

reactant | ethyl 2-(4-benzyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]-pyrimidine-6-carboxylate | 3.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C23H27N5O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5,8-dihydro-8-ethyl-2-(1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 2.5 g | C(C)N1C=C(C(C2=C1N=C(N=C2)N2CCNCC2)=O)C(=O)OCC | C16H21N5O3
